2185-01-22 09:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Transferred back to the ICU overnight for hypoxemia.  Initially stable
   on nasal canula but ultimately put on Bipap early this AM for tachynea
   and hypoxemia.
   Progressive clinical decline required intubation and initiation of
   mechanical ventilation.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown; itchin
   Sulfa (Sulfonamides)
   chills;
   Last dose of Antibiotics:
   Caspofungin - [**2185-1-22**] 02:00 AM
   Vancomycin - [**2185-1-22**] 03:00 AM
   Meropenem - [**2185-1-22**] 06:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2185-1-22**] 06:50 AM
   Haloperidol (Haldol) - [**2185-1-22**] 06:55 AM
   Pantoprazole (Protonix) - [**2185-1-22**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2185-1-22**] 08:00 AM
   Other medications:
   Colace, mesalamine, carafate, sertraline, ursodiol, protonix,
   simvastatin, lactulose, HSQ
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, Tachypnea
   Musculoskeletal: s/p digit amputations
   Flowsheet Data as of  [**2185-1-22**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.7
   HR: 96 (90 - 109) bpm
   BP: 109/69(79) {100/63(75) - 128/85(89)} mmHg
   RR: 24 (20 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.7 kg (admission): 64.5 kg
   Height: 26 Inch
             Total In:
                                                                    320 mL
                                                                  1,708 mL
   PO:
             TF:
   IVF:
                                                                    260 mL
                                                                  1,708 mL
   Blood products:
   Total out:
                                                                    295 mL
                                                                    770 mL
   Urine:
                                                                    295 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     25 mL
                                                                    938 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 99%
   ABG: 7.48/29/44/20/0
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: Scleral icterus
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: B/L, Rhonchorous: B/L)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, +ascites
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Oriented (to): x 2, Movement:
   Not assessed, Tone: Not assessed, Asterixis
   Labs / Radiology
   10.4 g/dL
   100 K/uL
   133 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.3 mEq/L
   22 mg/dL
   116 mEq/L
   148 mEq/L
   31.0 %
   16.5 K/uL
        [image002.jpg]
                            [**2185-1-13**]  04:01 AM
                            [**2185-1-13**]  05:17 PM
                            [**2185-1-14**]  02:31 AM
                            [**2185-1-15**]  04:31 PM
                            [**2185-1-15**]  11:14 PM
                            [**2185-1-16**]  03:45 AM
                            [**2185-1-18**]  03:37 AM
                             [**2185-1-21**]  06:34 PM
                             [**2185-1-22**]  04:04 AM
                             [**2185-1-22**]  05:39 AM
   WBC
   16.2
   17.9
   17.6
   15.9
   15.5
   15.5
   16.5
   Hct
   30.8
   33.2
   34.0
   32.0
   28.7
   32.0
   32.8
   31.0
   Plt
   134
   158
   124
   108
   108
   96
   100
   Cr
   0.7
   0.8
   0.8
   0.7
   0.8
   0.6
   TCO2
   21
   22
   Glucose
   111
   98
   112
   118
   119
   133
   Other labs: PT / PTT / INR:27.7/47.9/2.8, CK / CKMB /
   Troponin-T:33/2/<0.01, ALT / AST:39/61, Alk Phos / T Bili:291/6.5,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.2 %, Mono:3.9 %, Eos:0.4
   %, Lactic Acid:3.1 mmol/L, Albumin:2.9 g/dL, LDH:272 IU/L, Ca++:9.2
   mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR:  Increased B/L infiltrates
   Microbiology: BCx ([**1-17**]):  Neg
   Assessment and Plan
   71 y/o ESLD d/t PSC, EF 35%, recent course notable for fungal
   peritonitis, variceal bleed; now admitted for hypoxemia in setting of
   presumed aspiration.
   Hypoxemia: Clinical scenario most consistent with recurrent
   aspiration.  CXR with developing infiltrates.  Required NIPPV overnight
   due to tachypnea and hypoxemia. PaO2 still at 50 with Bipap
 now
   intubated.
       -Low tidal volume ventilation
       -Check sputum culture
       -Given likely aspiration, will not pursue w/u of other etiologies
   at present (eg PE)
    Leukocytosis, bacterial and fungal peritonitis: continue current
   antibiotics.
   Varices, h/o GI bleed: S/P recent banding
     -Continue to monitor HCT, PPI.
     -Currently not on home dose nadolol, will touch base with GI to see
   if this is recommended if pressure is stable.
   Cirrhosis: ursidiol, lactulose.  Trend lfts.  Communication with liver
   team re: transplant status.
   Malnutrition: significant issue, esp given d/c of NGTs.  Start tube
   feeds after intubation.
   Hypernatremia: continue to replace free water, follow serial sodiums.
   Confusion: likely some component of hepatic encephalopathy, +/-
   infection, prolonged hospitalization, etc; appears stable over past few
   days.
     -Continue lactulose
   CAD s/p CABG: statin, no asa; beta blocker has been held in setting of
   recent GI bleeds.
   Access: PIV (2 if possible given h/o GI bleeding)
 central line access
   for more reliable central access.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2185-1-21**] 06:21 PM
   20 Gauge - [**2185-1-21**] 11:27 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2185-01-23 08:05:00 Physician Resident Progress Note
Chief Complaint: ESLD
   Resp failure likely [**2-21**] aspiration
   24 Hour Events:
   - intubated b/c wasn't tolerating BiPAP
   - hypotensive with propofol; started on neo with peripheral IV; changed
   to levophed after CVL placed
   - placed left IJ w/o complication; failed to placed ALine
   - UOP decreasing early this am; wrote for more maintenance fluids
   (D5-1/2NS at 125 cc/hr x 1 L)
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown; itchin
   Sulfa (Sulfonamides)
   chills;
   Last dose of Antibiotics:
   Caspofungin - [**2185-1-23**] 12:00 AM
   Vancomycin - [**2185-1-23**] 02:00 AM
   Meropenem - [**2185-1-23**] 06:00 AM
   Infusions:
   Norepinephrine - 0.14 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Carafate (Sucralfate) - [**2185-1-22**] 05:30 PM
   Pantoprazole (Protonix) - [**2185-1-22**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2185-1-23**] 12:17 AM
   Other medications:
   Colace
   Lactulose
   Propofol
   Meropenem
   Vancomycin
   Caspofungin
   Protonix
   Simvastain
   Ursodiol
   Mesalamine
   Sertraline
   Chlorhexidine
   Sucralfate
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-1-23**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.7
   HR: 73 (67 - 113) bpm
   BP: 102/62(72) {62/40(45) - 143/95(106)} mmHg
   RR: 21 (16 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.7 kg (admission): 64.5 kg
   Height: 65 Inch
    CVP: 6 (2 - 6)mmHg
   Total In:
                                                                  4,287 mL
                                                                  1,556 mL
   PO:
   TF:
   IVF:
                                                                  3,632 mL
                                                                  1,556 mL
   Blood products:
                                                                    535 mL
   Total out:
                                                                  1,915 mL
                                                                    230 mL
   Urine:
                                                                  1,915 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,372 mL
                                                                  1,326 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 678 (678 - 678) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 133
   PIP: 11 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.46/30/99.[**Numeric Identifier 253**]/23/0
   Ve: 10.6 L/min
   PaO2 / FiO2: 250
   Physical Examination
   GEN: sedated, intubated, cachectic
   HEENT: NC, intubated, dry mm
   Lungs: scattered rhonchi, but otherwise clear
   Heart:  RRR, nl S1S2, no m/r/g
   Abd: distended, but soft.  Hypoactive BS, non-tender
   EXT: 3+ LE edema b/l
   Labs / Radiology
   128 K/uL
   9.7 g/dL
   144 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.6 mEq/L
   19 mg/dL
   115 mEq/L
   145 mEq/L
   28.1 %
   20.5 K/uL
        [image002.jpg]
                            [**2185-1-15**]  11:14 PM
                            [**2185-1-16**]  03:45 AM
                            [**2185-1-18**]  03:37 AM
                             [**2185-1-21**]  06:34 PM
                             [**2185-1-22**]  04:04 AM
                             [**2185-1-22**]  05:39 AM
                             [**2185-1-22**]  08:41 AM
                             [**2185-1-22**]  11:51 AM
                             [**2185-1-22**]  03:43 PM
                             [**2185-1-23**]  04:21 AM
   WBC
   15.9
   15.5
   15.5
   16.5
   20.5
   Hct
   28.7
   32.0
   32.8
   31.0
   28.1
   Plt
   108
   108
   96
   100
   128
   Cr
   0.7
   0.8
   0.6
   0.6
   TCO2
   21
   22
   22
   22
   22
   Glucose
   118
   119
   133
   149
   144
   Other labs: PT / PTT / INR:22.7/56.7/2.2, CK / CKMB /
   Troponin-T:33/2/<0.01, ALT / AST:35/57, Alk Phos / T Bili:257/6.3,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.2 %, Mono:3.9 %, Eos:0.4
   %, Lactic Acid:3.6 mmol/L, Albumin:2.9 g/dL, LDH:250 IU/L, Ca++:8.6
   mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Microbiology: No new data
   Assessment and Plan
   71 y/o man with PSC complicated by cirrhosis with known esophageal
   varices and multiple epidoses of UGIB and banding this admission, also
   with recent ICU stay for acute hypoxemia due to aspiration, who is now
   re-transferred to the ICU for acute hypoxemia in the setting of a
   likely repeat aspiration. Serial CXRs concerning for development of
   ARDS.
   # Hypoxemia:  Given worsening CXR and worsening P/F ratio, ARDS appears
   to be developing. Aspiration is most likely etiology. Other diagnoses
   such as PE and hepatopulmonary syndrome are less likely now given new
   clinical information.
   -- intubated; ARDSNET ventilation
   -- hold lasix/spironolactone while on pressor
   -- trend ABGs and CXR
   -- continue abx coverage: vanco/[**Last Name (un) 430**]/caspofungin
   -- pan culture (blood, sputum, urine)
   # Hypotension: Could be due to propofol although sepsis also
   possibility given complicated infections and possible new aspiration
   pneumonia.
   -- CVP 5-6; bolus 1 liter LR, repeat until CVP 8-12
   -- wean levophed as tolerated
   -- cont abx (vanco/[**Last Name (un) 430**]/caspofungin)
   -- pan culture as above
   # Persistent leukocytosis.
 rising. Complicated history of
   peritonitis, ? colangitis, and esophagitis. Cdiff has been negative.
   Blood and urine cultures negative.
   -- repeat blood, urine, and sputum cultures
   -- continue vanco/[**Last Name (un) 430**] to cover for aspiration pna and peritonitis
   -- continue caspofungin for esophagitis and peritonitis with [**First Name5 (NamePattern1) 188**]
   [**Last Name (NamePattern1) 1656**]
   -- f/u ID recs, re: abx course
   -- monitor fever curve, WBC
   # GI bleeding: EGD performed twice this admission with esophageal bands
   placed (2 on [**1-4**] on [**1-12**]). Currently hemodynamically stable.
   -- Monitor Hct, Protonix [**Hospital1 **], has CVL, and active T/S
   -- Sucralfate 1 gm PO QID
   -- holding nadolol for hypotension, but restart when off pressor and
   normotensive as no ongoing bleeding evident
   # ESLD/cirrhosis: On liver transplant list. Complicated by ascites,
   portal gastropathy, and SBP. No clear history of encephalopathy.
   -- ursodiol [**Hospital1 **], lactulose 30 mg daily
   -- hold spironolactone/lasix, nadolol in setting of above
   -- Dr. [**Last Name (STitle) 2233**] already reported that pt is active on transplant list
   -- hold reglan
   # Biliary strictures: Pull back cholangiography on [**1-10**] demonstrated
   no obstruction. PTC drain removed by IR [**2185-1-10**]. Bili peaked [**1-13**],
   decreasing now.
   -- Trend LFTs to assess for complications of PTC removal (ie,
   cholangitis)
   # Hypernatremia - likely due to poor po intake
   -- improved after d5W x 1 liter
   -- trend Na [**Hospital1 **]
   # Ulcerative colitis:
   -- Continue outpatient Mesalamine.
   # CAD s/p CABG:
   -- continue statin. Holding ASA and BB in setting of recent  bleeding.
   # Hyperlipidemia
   -- Continue outpatient dose statin.
   # Depression/ADHD:
   -- Continue sertraline.
   # FEN: Had poor PO intake. Calorie count on floor showed <500cal/day.
   Nutrition following. HAs a Dobhoff placed by IR, which was d/c
d.  Pt
   now with OG tube.
   -- NPO, can start TFs per nutrition recs
   # PPx:
   -- HC heparin, ppi, lactulose
   # Access:
   -- CVL, placed [**2185-1-22**]
   # CODE:
   -- full, confirmed with patient
   # COMM:
   -- with patient and wife, [**Name (NI) 7031**] [**Telephone/Fax (1) 7032**]
   # DISP: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2185-1-21**] 06:21 PM
   20 Gauge - [**2185-1-21**] 11:27 PM
   Multi Lumen - [**2185-1-22**] 05:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-01-23 11:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Intubated yesterday morning.  Some post-intubation hypotension.  L IJ
   placed without complications
   Moderate, dark yellow sputum
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown; itchin
   Sulfa (Sulfonamides)
   chills;
   Last dose of Antibiotics:
   Caspofungin - [**2185-1-23**] 12:00 AM
   Vancomycin - [**2185-1-23**] 02:00 AM
   Meropenem - [**2185-1-23**] 06:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Carafate (Sucralfate) - [**2185-1-22**] 05:30 PM
   Pantoprazole (Protonix) - [**2185-1-23**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2185-1-23**] 08:00 AM
   Other medications:
   Docusate, mesalamine, Sulcralfate, sertraline, ursodiol, simvastatin,
   lactulose, peridex, atrovent/albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-1-23**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.8
   HR: 83 (67 - 86) bpm
   BP: 89/60(67) {62/40(45) - 112/69(78)} mmHg
   RR: 20 (16 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.7 kg (admission): 64.5 kg
   Height: 65 Inch
   CVP: 5 (2 - 6)mmHg
   Total In:
                                                                  4,287 mL
                                                                  2,146 mL
   PO:
   TF:
   IVF:
                                                                  3,632 mL
                                                                  2,056 mL
   Blood products:
                                                                    535 mL
   Total out:
                                                                  1,915 mL
                                                                    320 mL
   Urine:
                                                                  1,915 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,372 mL
                                                                  1,826 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 500) mL
   Vt (Spontaneous): 678 (678 - 678) mL
   RR (Set): 14
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 133
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.46/30/99.[**Numeric Identifier 253**]/23/0
   Ve: 12.2 L/min
   PaO2 / FiO2: 250
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : L > R)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   128 K/uL
   144 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.6 mEq/L
   19 mg/dL
   115 mEq/L
   145 mEq/L
   28.1 %
   20.5 K/uL
        [image002.jpg]
                            [**2185-1-15**]  11:14 PM
                            [**2185-1-16**]  03:45 AM
                            [**2185-1-18**]  03:37 AM
                             [**2185-1-21**]  06:34 PM
                             [**2185-1-22**]  04:04 AM
                             [**2185-1-22**]  05:39 AM
                             [**2185-1-22**]  08:41 AM
                             [**2185-1-22**]  11:51 AM
                             [**2185-1-22**]  03:43 PM
                             [**2185-1-23**]  04:21 AM
   WBC
   15.9
   15.5
   15.5
   16.5
   20.5
   Hct
   28.7
   32.0
   32.8
   31.0
   28.1
   Plt
   108
   108
   96
   100
   128
   Cr
   0.7
   0.8
   0.6
   0.6
   TCO2
   21
   22
   22
   22
   22
   Glucose
   118
   119
   133
   149
   144
   Other labs: PT / PTT / INR:22.7/56.7/2.2, CK / CKMB /
   Troponin-T:33/2/<0.01, ALT / AST:35/57, Alk Phos / T Bili:257/6.3,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.2 %, Mono:3.9 %, Eos:0.4
   %, Lactic Acid:3.6 mmol/L, Albumin:2.9 g/dL, LDH:250 IU/L, Ca++:8.6
   mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR: B/L infiltrates. ETT/line in place.  LLL atelectasis vs
   consolidation.  R>L effusions
   Microbiology: BCx: pending
   Sputum Cx: pending
   UCx: pending
   Assessment and Plan
   71 y/o ESLD d/t PSC, EF 35%, recent course notable for fungal
   peritonitis, variceal bleed; now admitted for hypoxemia in setting of
   presumed aspiration.
   Respiratory failure: Clinical scenario most consistent with recurrent
   aspiration and ARDS
     -Low tidal volume ventilation
     -Check sputum culture
   Shock: Likely secondary to SIRS +/- sepsis as well as sedation.  CVP
   4-6 today
     -Fluid boluses to target CVP 8-12.
     -Follow up pan culture
   Leukocytosis, bacterial and fungal peritonitis.  WBC rising today.
     -Pan culture already down today.  Low threshold for broadening GNR.
    Varices, h/o GI bleed: S/P recent banding
     -Continue to monitor HCT, PPI.
     -Nadolol, lasix, spironolactone on hold for now.
   Cirrhosis: ursidiol, lactulose.  Trend lfts.  Communication with liver
   team re: transplant status.
    Malnutrition: significant issue, esp given d/c of NGTs.
      -Start tube feeds today
    Hypernatremia: Improved, will monitor.
    Confusion: likely some component of hepatic encephalopathy, +/-
   infection, prolonged hospitalization, etc; appears stable over past few
   days.
     -Continue lactulose
    CAD s/p CABG: statin, no asa; beta blocker has been held in setting of
   recent GI bleeds.
    Access: Quad-lumen L IJ
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2185-1-21**] 06:21 PM
   20 Gauge - [**2185-1-21**] 11:27 PM
   Multi Lumen - [**2185-1-22**] 05:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2185-01-24 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypoxemia
   24 Hour Events:
   - CVP of 5 after first liter LR, CVP 6 after 2nd liter LR, CVP 7 after
   3rd liter
   - TFs started, high residuals, started reglan (takes at home)
   - sputum gram stain no organisms
   - levophed weaned, not off
   Allergies:
   Penicillins
   Unknown; itchin
   Sulfa (Sulfonamides)
   chills;
   Last dose of Antibiotics:
   Caspofungin - [**2185-1-23**] 12:00 AM
   Vancomycin - [**2185-1-24**] 02:00 AM
   Meropenem - [**2185-1-24**] 06:00 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-1-23**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2185-1-24**] 12:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-1-24**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 90 (77 - 104) bpm
   BP: 97/62(70) {89/49(60) - 123/70(84)} mmHg
   RR: 28 (19 - 38) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.7 kg (admission): 64.5 kg
   Height: 65 Inch
    CVP: 6 (5 - 9)mmHg
   Bladder pressure: 13 (13 - 13) mmHg
                                Total In:
                                                                  6,432 mL
                                                                    753 mL
   PO:
                                TF:
                                                                    118 mL
                                                                    139 mL
   IVF:
                                                                  5,884 mL
                                                                    614 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    250 mL
   Urine:
                                                                    845 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,787 mL
                                                                    503 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: ///22/
   Ve: 12.3 L/min
   Physical Examination
   GEN: sedated, intubated, icteric, cachectic, doesn
t withdraw to pain
   HEENT: NC, PEERLA, intubated, dry mm
   Lungs: scattered rhonchi, slightly decreased at bases
   Heart:  RRR, nl S1S2, no m/r/g
   Abd: distended, but soft.  Hypoactive BS, non-tender
   EXT: 3+ LE edema b/l
   Labs / Radiology
   110 K/uL
   9.3 g/dL
   155
   0.7 mg/dL
   22 mEq/L
   3.5 mEq/L
   16 mg/dL
   114 mEq/L
   142 mEq/L
   26.9 %
   21.9 K/uL
        [image002.jpg]
                             [**2185-1-21**]  06:34 PM
                             [**2185-1-22**]  04:04 AM
                             [**2185-1-22**]  05:39 AM
                             [**2185-1-22**]  08:41 AM
                             [**2185-1-22**]  11:51 AM
                             [**2185-1-22**]  03:43 PM
                             [**2185-1-23**]  04:21 AM
                             [**2185-1-23**]  04:48 PM
                             [**2185-1-24**]  03:26 AM
                             [**2185-1-24**]  06:00 AM
   WBC
   16.5
   20.5
   21.9
   Hct
   31.0
   28.1
   26.9
   Plt
   100
   128
   110
   Cr
   0.6
   0.6
   0.6
   0.7
   TCO2
   21
   22
   22
   22
   22
   Glucose
   133
   149
   144
   133
   143
   155
   Other labs: PT / PTT / INR:22.3/53.7/2.1, CK / CKMB /
   Troponin-T:33/2/<0.01, ALT / AST:35/57, Alk Phos / T Bili:257/6.3,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.2 %, Mono:3.9 %, Eos:0.4
   %, Lactic Acid:3.6 mmol/L, Albumin:2.9 g/dL, LDH:250 IU/L, Ca++:8.2
   mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   CXR:
   Worsening b/l opacity c/w ARDS, but also appears to have some
   cephalization c/w pulmonary edema
   Assessment and Plan
   71 y/o man with PSC complicated by cirrhosis with known esophageal
   varices and multiple epidoses of UGIB and banding this admission, also
   with recent ICU stay for acute hypoxemia due to aspiration, who is now
   re-transferred to the ICU for acute hypoxemia in the setting of a
   likely repeat aspiration. Serial CXRs concerning for development of
   ARDS.
   # Hypoxemia:  due to ARDS. Aspiration is most likely etiology. Other
   diagnoses such as PE and hepatopulmonary syndrome are less likely now
   given new clinical information.
   -- intubated; ARDSNET ventilation
   -- as he is on pressors, would begin diuresis today (was +5L yesterday)
   -- trend ABGs and CXR
   -- continue abx coverage: vanco/[**Last Name (un) 430**]/caspofungin
   # Hypotension: Most likely due to propofol although sepsis also
   possibility given complicated infections.
   -- given ESLD, would expect CVP to be lower, would accept [**6-26**], avoid
   more boluses given that it 3^rd spaces and he now has e/o pulm edema on
   CXR.
    -- continue levophed titrated for MAP >65
   -- cont abx (vanco/[**Last Name (un) 430**]/caspofungin)
   # Persistent leukocytosis.
 rising. Complicated history of
   peritonitis, ? colangitis, and esophagitis. Cdiff has been negative.
   Blood and urine cultures negative.
   -- f/u [**1-23**]
s  blood, urine, and sputum cultures
   -- continue vanco/[**Last Name (un) 430**] to cover for aspiration pna and peritonitis
   -- continue caspofungin for esophagitis and peritonitis with [**First Name5 (NamePattern1) 188**]
   [**Last Name (NamePattern1) 1656**]
   -- f/u ID recs, re: abx course
   -- monitor fever curve, WBC
   # GI bleeding: EGD performed twice this admission with esophageal bands
   placed (2 on [**1-4**] on [**1-12**]). Currently hemodynamically stable.
   -- Monitor Hct, Protonix [**Hospital1 **], has CVL, and active T/S
   -- Sucralfate 1 gm PO QID
   -- holding nadolol for hypotension, but restart when off pressor and
   normotensive as no ongoing bleeding evident
   # ESLD/cirrhosis: On liver transplant list. Complicated by ascites,
   portal gastropathy, and SBP. No clear history of encephalopathy.
   -- ursodiol [**Hospital1 **], lactulose 30 mg daily
   -- hold spironolactone/lasix, nadolol in setting of above
   -- Dr. [**Last Name (STitle) 2233**] already reported that pt is active on transplant list
   -- restarted reglan
   # Biliary strictures: Pull back cholangiography on [**1-10**] demonstrated
   no obstruction. PTC drain removed by IR [**2185-1-10**]. Bili peaked [**1-13**],
   decreasing now.
   -- Trend LFTs to assess for complications of PTC removal (ie,
   cholangitis)
   # Hypernatremia
 Resolved, was likely due to poor po intake
   -- trend Na [**Hospital1 **] given will attempt diuresis
   # Ulcerative colitis:
   -- Continue outpatient Mesalamine.
   # CAD s/p CABG:
   -- continue statin. Holding ASA and BB in setting of recent  bleeding.
   # Hyperlipidemia
   -- Continue outpatient dose statin.
   # Depression/ADHD:
   -- Continue sertraline.
   # FEN: Had poor PO intake. Calorie count on floor showed <500cal/day.
   Nutrition following. HAs a Dobhoff placed by IR, which was d/c
d.  Pt
   now with OG tube.
   -- NPO, TFs per nutrition recs
   # PPx:
   -- SC heparin, ppi, lactulose
   # Access:
   -- CVL, placed [**2185-1-22**]
   # CODE:
   -- full, confirmed with patient
   # COMM:
   -- with patient and wife, [**Name (NI) 7031**] [**Telephone/Fax (1) 7032**]
   # DISP: ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2185-1-23**] 12:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2185-1-21**] 06:21 PM
   20 Gauge - [**2185-1-21**] 11:27 PM
   Multi Lumen - [**2185-1-22**] 05:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2185-01-24 11:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Continued on pressors and low tidal volume ventilation overnight.
   Received 3L boluses of LR yesterday for low CVP.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown; itchin
   Sulfa (Sulfonamides)
   chills;
   Last dose of Antibiotics:
   Vancomycin - [**2185-1-24**] 02:00 AM
   Meropenem - [**2185-1-24**] 06:00 AM
   Caspofungin - [**2185-1-24**] 08:39 AM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Carafate (Sucralfate) - [**2185-1-24**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2185-1-24**] 09:40 AM
   Pantoprazole (Protonix) - [**2185-1-24**] 09:45 AM
   Other medications:
   colace, asacol, sucralfate, Zoloft, ursodiol, simvastatin, lactulose,
   Albuterol/atrovent, RISS, reglan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-1-24**] 11:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.9
C (98.5
   HR: 96 (82 - 104) bpm
   BP: 87/57(63) {87/49(60) - 123/70(84)} mmHg
   RR: 22 (20 - 38) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.7 kg (admission): 64.5 kg
   Height: 65 Inch
   CVP: 7 (5 - 9)mmHg
   Total In:
                                                                  6,432 mL
                                                                  1,288 mL
   PO:
   TF:
                                                                    118 mL
                                                                    175 mL
   IVF:
                                                                  5,884 mL
                                                                    993 mL
   Blood products:
   Total out:
                                                                  1,645 mL
                                                                    433 mL
   Urine:
                                                                    845 mL
                                                                    391 mL
   NG:
   Stool:
   Drains:
                                                                     42 mL
   Balance:
                                                                  4,787 mL
                                                                    855 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 405 (405 - 405) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 12 cmH2O
   SpO2: 91%
   ABG: ///22/
   Ve: 15.3 L/min
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : L>R)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   110 K/uL
   155
   0.7 mg/dL
   22 mEq/L
   3.5 mEq/L
   16 mg/dL
   114 mEq/L
   142 mEq/L
   26.9 %
   21.9 K/uL
        [image002.jpg]
                             [**2185-1-21**]  06:34 PM
                             [**2185-1-22**]  04:04 AM
                             [**2185-1-22**]  05:39 AM
                             [**2185-1-22**]  08:41 AM
                             [**2185-1-22**]  11:51 AM
                             [**2185-1-22**]  03:43 PM
                             [**2185-1-23**]  04:21 AM
                             [**2185-1-23**]  04:48 PM
                             [**2185-1-24**]  03:26 AM
                             [**2185-1-24**]  06:00 AM
   WBC
   16.5
   20.5
   21.9
   Hct
   31.0
   28.1
   26.9
   Plt
   100
   128
   110
   Cr
   0.6
   0.6
   0.6
   0.7
   TCO2
   21
   22
   22
   22
   22
   Glucose
   133
   149
   144
   133
   143
   155
   Other labs: PT / PTT / INR:22.3/53.7/2.1, CK / CKMB /
   Troponin-T:33/2/<0.01, ALT / AST:35/57, Alk Phos / T Bili:257/6.3,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.2 %, Mono:3.9 %, Eos:0.4
   %, Lactic Acid:3.6 mmol/L, Albumin:2.9 g/dL, LDH:250 IU/L, Ca++:8.2
   mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR: ETT in place, CVC in place.  Underpenetrated, yet still
   worsening B/L infiltrates  B/L effusion.
   Microbiology: BCx:  pending
   Sputum Cx: NGTD
   UCx:  NGTD
   Assessment and Plan
   71 y/o ESLD d/t PSC, EF 35%, recent course notable for fungal
   peritonitis, variceal bleed; now admitted for hypoxemia in setting of
   presumed aspiration.
   Respiratory failure: Clinical scenario most consistent with recurrent
   aspiration and ARDS.  Thus far sputum culture/lack of fever not
   suggesting PNA.
     -Low tidal volume ventilation
     -Check sputum culture
     -Gently diuresis with lasix gtt.
   Shock: Likely secondary to SIRS +/- sepsis as well as sedation.  Also
   vasodilated.
     -Follow up pan culture
     -Monitor pressor requirement with gentle diuresis.
   Leukocytosis, bacterial and fungal peritonitis.  WBC rising today.
     -Pan culture already down today.  Low threshold for broadening GNR.
   Varices, h/o GI bleed: S/P recent banding
     -Continue to monitor HCT, PPI.
     -Nadolol, spironolactone on hold for now.
   Cirrhosis: ursidiol, lactulose.  Trend lfts.  Communication with liver
   team re: transplant status.
   Malnutrition: significant issue, esp given d/c of NGTs.  Some increased
   residuals this AM
     -Rechallenge with tube fees today
    Hypernatremia: Improved, will monitor.
   Confusion: likely some component of hepatic encephalopathy, +/-
   infection, prolonged hospitalization, etc; appears stable over past few
   days.
     -Continue lactulose
   CAD s/p CABG: statin, no asa; beta blocker has been held in setting of
   recent GI bleeds.
   Access: Quad-lumen L IJ
     -Will try to place PIV as well in case of GIB.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2185-1-22**] 05:07 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2185-01-25 08:01:00 Physician Resident Progress Note
Chief Complaint: ESLD
   Aspiration
   Resp Failure
   ARDS
   24 Hour Events:
   - Dr. [**Last Name (STitle) 2233**] spoke to family re: severity of illness, would be
   ineligible for transplant currently
   - gentle diuresis with lasix gtt kept him even for the day
   - remains on levophed
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown; itchin
   Sulfa (Sulfonamides)
   chills;
   Last dose of Antibiotics:
   Vancomycin - [**2185-1-25**] 02:01 AM
   Meropenem - [**2185-1-25**] 06:30 AM
   Caspofungin - [**2185-1-25**] 07:29 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-1-24**] 09:40 AM
   Carafate (Sucralfate) - [**2185-1-24**] 04:00 PM
   Pantoprazole (Protonix) - [**2185-1-25**] 07:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-1-25**] 08:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.9
   HR: 80 (79 - 104) bpm
   BP: 91/55(64) {77/42(51) - 108/67(75)} mmHg
   RR: 14 (14 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.7 kg (admission): 64.5 kg
   Height: 65 Inch
    CVP: 8 (4 - 9)mmHg
   Total In:
                                                                  2,451 mL
                                                                    920 mL
   PO:
   TF:
                                                                    359 mL
                                                                     23 mL
   IVF:
                                                                  1,792 mL
                                                                    897 mL
   Blood products:
   Total out:
                                                                  1,878 mL
                                                                  1,570 mL
   Urine:
                                                                  1,136 mL
                                                                  1,510 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
                                                                     42 mL
   Balance:
                                                                    573 mL
                                                                   -650 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 527 (405 - 527) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 15 cmH2O
   Plateau: 16 cmH2O
   Compliance: 53.3 cmH2O/mL
   SpO2: 100%
   ABG: ///26/
   Ve: 6.9 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Crackles : scattered, Bronchial: , Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   90 K/uL
   9.4 g/dL
   150 mg/dL
   0.7 mg/dL
   26 mEq/L
   2.9 mEq/L
   17 mg/dL
   112 mEq/L
   144 mEq/L
   28.2 %
   18.5 K/uL
        [image002.jpg]
                             [**2185-1-22**]  04:04 AM
                             [**2185-1-22**]  05:39 AM
                             [**2185-1-22**]  08:41 AM
                             [**2185-1-22**]  11:51 AM
                             [**2185-1-22**]  03:43 PM
                             [**2185-1-23**]  04:21 AM
                             [**2185-1-23**]  04:48 PM
                             [**2185-1-24**]  03:26 AM
                             [**2185-1-24**]  06:00 AM
                             [**2185-1-25**]  04:32 AM
   WBC
   16.5
   20.5
   21.9
   18.5
   Hct
   31.0
   28.1
   26.9
   28.2
   Plt
   100
   128
   110
   90
   Cr
   0.6
   0.6
   0.6
   0.7
   0.7
   TCO2
   22
   22
   22
   22
   Glucose
   133
   149
   144
   133
   143
   155
   150
   Other labs: PT / PTT / INR:20.6/51.5/1.9, CK / CKMB /
   Troponin-T:33/2/<0.01, ALT / AST:28/39, Alk Phos / T Bili:231/4.8,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.2 %, Mono:3.9 %, Eos:0.4
   %, Lactic Acid:3.6 mmol/L, Albumin:2.5 g/dL, LDH:250 IU/L, Ca++:8.0
   mg/dL, Mg++:1.7 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR [**2185-1-24**]: FINDINGS: In comparison with study of [**1-23**],
   allowing for some differences in
   technique, there is probably little overall change. Again, there are
   diffuse
   opacifications throughout both lungs. This is consistent with the
   diagnosis
   of ARDS, though severe pulmonary edema or widespread pneumonia could
   present a
   somewhat similar pattern. Increasing pleural effusion on the left.
   Monitoring and support devices remain in place
   Microbiology: [**2185-1-23**] - pancultured
   Blood - NGTD
   Urine - No growth (final)
   Sputum - No growth (final)
   Assessment and Plan
   71 y/o man with PSC complicated by cirrhosis with known esophageal
   varices and multiple epidoses of UGIB and banding this admission, also
   with recent ICU stay for acute hypoxemia due to aspiration, who is now
   re-transferred to the ICU for acute hypoxemia in the setting of a
   likely repeat aspiration. Serial CXRs concerning for development of
   ARDS.
   # Hypoxemia:  due to ARDS. Aspiration is most likely etiology. Other
   diagnoses such as PE and hepatopulmonary syndrome are less likely now
   given new clinical information.
   -- intubated; ARDSNET ventilation
 wean to PS, and SBT if mental
   status appropriate
   -- although he is on pressors, he has liver dz and chronic
   vasodilatation--> so trying to diurese with lasix gtt, goal to CVP 8
   -- trend ABGs and CXR
   -- continue abx coverage: vanco/[**Last Name (un) 430**]/caspofungin
   # Hypotension: Most likely due to propofol although sepsis also
   possibility given complicated infections.
   -- given ESLD, would expect CVP to be lower, would accept [**6-26**], avoid
   more boluses given that it 3rd spaces and he now has e/o pulm edema on
   CXR.  Will try to diurese despite pressor with lasix gtt
    -- continue levophed titrated for MAP >65
   -- cont abx (vanco/[**Last Name (un) 430**]/caspofungin)
   -- f/u cultures (no new data to date)
   # Persistent leukocytosis.
 now down slightly. Complicated history of
   peritonitis, ? colangitis, and esophagitis. Cdiff has been negative.
   Blood and urine cultures negative.
   -- f/u [**1-23**]
s  blood, urine, and sputum cultures--> NGTD
   -- continue vanco/[**Last Name (un) 430**] to cover for aspiration pna and peritonitis
   -- continue caspofungin for esophagitis and peritonitis with [**First Name5 (NamePattern1) 188**]
   [**Last Name (NamePattern1) 1656**]
   -- f/u ID recs, re: abx course
   -- monitor fever curve, WBC
   # GI bleeding: EGD performed twice this admission with esophageal bands
   placed (2 on [**1-4**] on [**1-12**]). Currently hemodynamically stable.
   -- Monitor Hct, Protonix [**Hospital1 **], has CVL, and active T/S
   -- Sucralfate 1 gm PO QID
   -- holding nadolol for hypotension, but restart when off pressor and
   normotensive as no ongoing bleeding evident
   # ESLD/cirrhosis: On liver transplant list but not active given acute
   illness. Complicated by ascites, portal gastropathy, and SBP. No clear
   history of encephalopathy.
   -- ursodiol [**Hospital1 **], lactulose 30 mg daily
   -- hold spironolactone, nadolol in setting of above
   -- on lasix gtt
   -- Dr. [**Last Name (STitle) 2233**] already reported that pt is listed on transplant but not
   active now that acutely ill
   -- restarted reglan
   # Biliary strictures: Pull back cholangiography on [**1-10**] demonstrated
   no obstruction. PTC drain removed by IR [**2185-1-10**]. Bili peaked [**1-13**],
   decreasing now.
   -- Trend LFTs to assess for complications of PTC removal (ie,
   cholangitis)
   # Hypernatremia
 Resolved, was likely due to poor po intake
   -- trend Na [**Hospital1 **] given will attempt diuresis
   # Ulcerative colitis:
   -- Continue outpatient Mesalamine.
   # CAD s/p CABG:
   -- continue statin. Holding ASA and BB in setting of recent  bleeding.
   # Hyperlipidemia
   -- Continue outpatient dose statin.
   # Depression/ADHD:
   -- Continue sertraline.
   # FEN: Had poor PO intake. Calorie count on floor showed <500cal/day.
   Nutrition following. HAs a Dobhoff placed by IR, which was d/c
d.  Pt
   now with OG tube.   IF extubated will need NG tube for feeds
   -- NPO, TFs per nutrition recs
   # PPx:
   -- pneumoboots, ppi, lactulose
   # Access:
   -- CVL, placed [**2185-1-22**]
   # CODE:
   -- full, confirmed with patient
   # COMM:
   -- with patient and wife, [**Name (NI) 7031**] [**Telephone/Fax (1) 7032**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2185-1-25**] 07:49 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2185-1-22**] 05:07 PM
   18 Gauge - [**2185-1-24**] 04:20 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2185-01-25 10:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Diuresed overnight, remains of levophed.
   Scant amounts of thick yellow secretions this AM.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown; itchin
   Sulfa (Sulfonamides)
   chills;
   Last dose of Antibiotics:
   Vancomycin - [**2185-1-25**] 02:01 AM
   Meropenem - [**2185-1-25**] 06:30 AM
   Caspofungin - [**2185-1-25**] 07:29 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Carafate (Sucralfate) - [**2185-1-24**] 04:00 PM
   Pantoprazole (Protonix) - [**2185-1-25**] 07:36 AM
   Other medications:
   Colace, asacol, carafate, zoloft, actigall, zocor, lactulose, peridex,
   atrovent, reglan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-1-25**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.3
C (97.4
   HR: 77 (75 - 104) bpm
   BP: 93/54(64) {77/42(51) - 108/69(77)} mmHg
   RR: 12 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.7 kg (admission): 64.5 kg
   Height: 65 Inch
   CVP: 10 (4 - 10)mmHg
   Total In:
                                                                  2,451 mL
                                                                  1,151 mL
   PO:
   TF:
                                                                    359 mL
                                                                     79 mL
   IVF:
                                                                  1,792 mL
                                                                    982 mL
   Blood products:
   Total out:
                                                                  1,878 mL
                                                                  2,390 mL
   Urine:
                                                                  1,136 mL
                                                                  2,030 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
                                                                     42 mL
   Balance:
                                                                    573 mL
                                                                 -1,239 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 527 (527 - 527) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 63
   PIP: 15 cmH2O
   Plateau: 16 cmH2O
   Compliance: 53.3 cmH2O/mL
   SpO2: 100%
   ABG: ///26/
   Ve: 11.5 L/min
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : L>R, Diminished:
   Bibasilar)
   Abdominal: Soft, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   90 K/uL
   150 mg/dL
   0.7 mg/dL
   26 mEq/L
   2.9 mEq/L
   17 mg/dL
   112 mEq/L
   144 mEq/L
   28.2 %
   18.5 K/uL
        [image002.jpg]
                             [**2185-1-22**]  04:04 AM
                             [**2185-1-22**]  05:39 AM
                             [**2185-1-22**]  08:41 AM
                             [**2185-1-22**]  11:51 AM
                             [**2185-1-22**]  03:43 PM
                             [**2185-1-23**]  04:21 AM
                             [**2185-1-23**]  04:48 PM
                             [**2185-1-24**]  03:26 AM
                             [**2185-1-24**]  06:00 AM
                             [**2185-1-25**]  04:32 AM
   WBC
   16.5
   20.5
   21.9
   18.5
   Hct
   31.0
   28.1
   26.9
   28.2
   Plt
   100
   128
   110
   90
   Cr
   0.6
   0.6
   0.6
   0.7
   0.7
   TCO2
   22
   22
   22
   22
   Glucose
   133
   149
   144
   133
   143
   155
   150
   Other labs: PT / PTT / INR:20.6/51.5/1.9, CK / CKMB /
   Troponin-T:33/2/<0.01, ALT / AST:28/39, Alk Phos / T Bili:231/4.8,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.2 %, Mono:3.9 %, Eos:0.4
   %, Albumin:2.5 g/dL, LDH:250 IU/L, Ca++:8.0 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.8 mg/dL
   Imaging: CXR: ETT/CVC in place.  Improved B/L infiltrates.
   Microbiology: BCx: NGTD
   Sputum Cx:  NGTD
   UCx:  NGTD
   Assessment and Plan
   71 y/o ESLD d/t PSC, EF 35%, recent course notable for fungal
   peritonitis, variceal bleed; now admitted for hypoxemia in setting of
   presumed aspiration.
   Respiratory failure: Clinical scenario most consistent with recurrent
   aspiration and ARDS.  Thus far sputum culture/lack of fever not
   suggesting PNA. CXR, and vent requirements improved with diuresis.
     -[**Year (4 digits) **] today
     -If fails [**Last Name (LF) **], [**First Name3 (LF) 178**] observe on PSV.
     -Continue pulmonary toilet.
    Shock: Likely secondary to SIRS +/- sepsis as well as sedation.  Also
   vasodilated. Tolerate diiuresis without increase in pressor
   requirements.
      -Target CVP 6-8
      -Monitor pressor requirement off propofol
    Leukocytosis, bacterial and fungal peritonitis.  WBC down today.
      -f/u pan culture.
      -Low threshold for broadening GNR.
    Varices, h/o GI bleed: S/P recent banding
      -Continue to monitor HCT, PPI.
      -Nadolol, spironolactone on hold for now.
    Cirrhosis: ursidiol, lactulose.  Trend lfts.  Communication with liver
   team re: transplant status.
    Malnutrition: significant issue, esp given d/c of NGTs.  Some
   increased residuals this AM
     -Rechallenge with tube fees today
    Hypernatremia: Improved, will monitor.
    Confusion: likely some component of hepatic encephalopathy, +/-
   infection, prolonged hospitalization, etc; appears stable over past few
   days.
      -Continue lactulose
    CAD s/p CABG: statin, no asa; beta blocker has been held in setting of
   recent GI bleeds.
    Access: Quad-lumen L IJ
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2185-1-25**] 07:49 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2185-1-22**] 05:07 PM
   18 Gauge - [**2185-1-24**] 04:20 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2185-01-26 07:45:00 Physician Resident Progress Note
Chief Complaint: ESLD
   resp failure
   24 Hour Events:
   -- NG tube placed; told nursing to hold tube feeds at midnight for
   possible extubation on Wed (did not attempt extubation yest)
   -- was able to wean down levophed in evening and continue slow
   diuresis, but had to go back onto low dose levo b/c CVP fell a little
   low
   -- nursing wondering about placing PICC: tape around left IJ seems to
   be irritating skin, appears uncomfortable
   -- Dr. [**Last Name (STitle) 2233**] and I both spoke with family again about prognosis, goals
   of care
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown; itchin
   Sulfa (Sulfonamides)
   chills;
   Last dose of Antibiotics:
   Caspofungin - [**2185-1-25**] 07:29 AM
   Meropenem - [**2185-1-26**] 12:27 AM
   Vancomycin - [**2185-1-26**] 02:27 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2185-1-25**] 07:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2185-1-26**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 81 (73 - 95) bpm
   BP: 94/61(69) {79/41(51) - 126/71(86)} mmHg
   RR: 15 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.7 kg (admission): 64.5 kg
   Height: 65 Inch
    CVP: 4 (4 - 9)mmHg
   Total In:
                                                                  2,175 mL
                                                                    509 mL
   PO:
   TF:
                                                                    202 mL
   IVF:
                                                                  1,663 mL
                                                                    509 mL
   Blood products:
   Total out:
                                                                  4,530 mL
                                                                  1,110 mL
   Urine:
                                                                  4,170 mL
                                                                  1,110 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,355 mL
                                                                   -601 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 483 (357 - 582) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 11.9 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Bronchial: )
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   83 K/uL
   9.9 g/dL
   119 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.3 mEq/L
   19 mg/dL
   113 mEq/L
   147 mEq/L
   29.0 %
   11.7 K/uL
        [image002.jpg]
                             [**2185-1-22**]  05:39 AM
                             [**2185-1-22**]  08:41 AM
                             [**2185-1-22**]  11:51 AM
                             [**2185-1-22**]  03:43 PM
                             [**2185-1-23**]  04:21 AM
                             [**2185-1-23**]  04:48 PM
                             [**2185-1-24**]  03:26 AM
                             [**2185-1-24**]  06:00 AM
                             [**2185-1-25**]  04:32 AM
                             [**2185-1-26**]  04:20 AM
   WBC
   20.5
   21.9
   18.5
   11.7
   Hct
   28.1
   26.9
   28.2
   29.0
   Plt
   128
   110
   90
   83
   Cr
   0.6
   0.6
   0.7
   0.7
   0.7
   TCO2
   22
   22
   22
   22
   Glucose
   149
   144
   133
   143
   155
   150
   119
   Other labs: PT / PTT / INR:20.6/51.5/1.9, CK / CKMB /
   Troponin-T:33/2/<0.01, ALT / AST:28/40, Alk Phos / T Bili:238/5.1,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.2 %, Mono:3.9 %, Eos:0.4
   %, Lactic Acid:3.6 mmol/L, Albumin:2.5 g/dL, LDH:250 IU/L, Ca++:8.0
   mg/dL, Mg++:1.6 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR: b/l infiltrates
   Microbiology: [**2184-1-23**]:
   sputum - no growth (final)
   urine - no growth (final)
   blood - no growth to date
   Assessment and Plan
   71 y/o man with PSC complicated by cirrhosis with known esophageal
   varices and multiple epidoses of UGIB and banding this admission, also
   with recent ICU stay for acute hypoxemia due to aspiration, who is now
   re-transferred to the ICU for acute hypoxemia in the setting of a
   likely repeat aspiration. Serial CXRs concerning for development of
   ARDS.
   # Hypoxemia:  Was due to ARDS. Aspiration is most likely etiology.
   Other diagnoses such as PE and hepatopulmonary syndrome are less likely
   now given new clinical information.
   -- intubated; now off sedation on having SBT
   -- although he is on pressors, he has liver dz and chronic
   vasodilatation--> so trying to diurese with lasix gtt, goal to CVP 8
   -- trend ABGs and CXR
   -- continue abx coverage: vanco/[**Last Name (un) 430**]/caspofungin
   -- sputum [**1-23**] - no growth
   # Hypotension: Most likely due to propofol although sepsis also
   possibility given complicated infections.
   -- given ESLD, would expect CVP to be lower, would accept [**6-26**], avoid
   more boluses given that it 3rd spaces and he now has e/o pulm edema on
   CXR.
   -- was 2L negative on lasix gtt [**2185-1-25**] -- back off a bit today
    -- continue levophed titrated for MAP >65
   -- cont abx (vanco/[**Last Name (un) 430**]/caspofungin)
   -- f/u cultures (no new data to date)
   # Persistent leukocytosis.
 now coming down. Complicated history of
   peritonitis, ? colangitis, and esophagitis. Cdiff has been negative.
   Blood and urine cultures negative.
   -- f/u [**1-23**]
s  blood, urine, and sputum cultures--> NGTD
   -- continue vanco/[**Last Name (un) 430**] to cover for aspiration pna and peritonitis
   -- continue caspofungin for esophagitis and peritonitis with [**First Name5 (NamePattern1) 188**]
   [**Last Name (NamePattern1) 1656**]
   -- f/u ID recs, re: abx course
   -- monitor fever curve, WBC
   # GI bleeding: EGD performed twice this admission with esophageal bands
   placed (2 on [**1-4**] on [**1-12**]). No recent evidence bleeding.  Hct
   stable
   -- Monitor Hct, Protonix [**Hospital1 **], has CVL, and active T/S
   -- Sucralfate 1 gm PO QID
   -- holding nadolol for hypotension, but restart when off pressor and
   normotensive as no ongoing bleeding evident
   # ESLD/cirrhosis: On liver transplant list but not active given acute
   illness. Complicated by ascites, portal gastropathy, and SBP. No clear
   history of encephalopathy.
   -- ursodiol [**Hospital1 **], lactulose 30 mg daily
   -- hold spironolactone, nadolol in setting of above
   -- on lasix gtt
   -- Dr. [**Last Name (STitle) 2233**] already reported that pt is listed on transplant but not
   active now that acutely ill
   -- restarted reglan
   # Biliary strictures: Pull back cholangiography on [**1-10**] demonstrated
   no obstruction. PTC drain removed by IR [**2185-1-10**]. Bili peaked [**1-13**],
   decreasing now.
   -- Trend LFTs to assess for complications of PTC removal (ie,
   cholangitis)
   # Hypernatremia
 Na trending up.  Could represent overduresis
   -- increase free H2O flushes slightly
   -- back off on diuresis as above
   -- trend Na [**Hospital1 **] given will attempt diuresis
   # Ulcerative colitis:
   -- Continue outpatient Mesalamine.
   # CAD s/p CABG:
   -- continue statin. Holding ASA and BB in setting of recent  bleeding.
   # Hyperlipidemia
   -- Continue outpatient dose statin.
   # Depression/ADHD:
   -- Continue sertraline.
   # FEN: Had poor PO intake. Calorie count on floor showed <500cal/day.
   Tube feeds via NG tube
   -- NPO, TFs per nutrition recs
   # PPx:
   -- pneumoboots, ppi, lactulose
   # Access
   -- CVL, placed [**2185-1-22**]
   # CODE:
   -- full, confirmed with patient
   # COMM:
   -- with patient and wife, [**Name (NI) 7031**] [**Telephone/Fax (1) 7032**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2185-1-22**] 05:07 PM
   18 Gauge - [**2185-1-24**] 04:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2185-01-26 08:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Weaned off of pressors yesterday for a short period of time but
   required some pressors overnight.
   Tolerated minimal vent support overnight.  Remained off of sedation
   overnight and by this AM is arousable and following commands.
   History obtained from Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Penicillins
   Unknown; itchin
   Sulfa (Sulfonamides)
   chills;
   Last dose of Antibiotics:
   Caspofungin - [**2185-1-25**] 07:29 AM
   Vancomycin - [**2185-1-26**] 02:27 AM
   Meropenem - [**2185-1-26**] 07:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Other medications:
   colace, asacol, carafate, sertraline, ursodiol, protonix, zocor,
   lactulose, peridex, atrovent, RISS, reglan.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-1-26**] 08:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.6
   HR: 81 (73 - 95) bpm
   BP: 85/61(67) {79/41(51) - 126/71(86)} mmHg
   RR: 15 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.1 kg (admission): 64.5 kg
   Height: 65 Inch
   CVP: 9 (4 - 9)mmHg
   Total In:
                                                                  2,175 mL
                                                                    746 mL
   PO:
   TF:
                                                                    202 mL
   IVF:
                                                                  1,663 mL
                                                                    626 mL
   Blood products:
   Total out:
                                                                  4,530 mL
                                                                  1,440 mL
   Urine:
                                                                  4,170 mL
                                                                  1,440 mL
   NG:
                                                                     60 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,355 mL
                                                                   -694 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 590 (357 - 590) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: ///27/
   Ve: 9.1 L/min
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : L>R)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   83 K/uL
   119 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.3 mEq/L
   19 mg/dL
   113 mEq/L
   147 mEq/L
   29.0 %
   11.7 K/uL
        [image002.jpg]
                             [**2185-1-22**]  05:39 AM
                             [**2185-1-22**]  08:41 AM
                             [**2185-1-22**]  11:51 AM
                             [**2185-1-22**]  03:43 PM
                             [**2185-1-23**]  04:21 AM
                             [**2185-1-23**]  04:48 PM
                             [**2185-1-24**]  03:26 AM
                             [**2185-1-24**]  06:00 AM
                             [**2185-1-25**]  04:32 AM
                             [**2185-1-26**]  04:20 AM
   WBC
   20.5
   21.9
   18.5
   11.7
   Hct
   28.1
   26.9
   28.2
   29.0
   Plt
   128
   110
   90
   83
   Cr
   0.6
   0.6
   0.7
   0.7
   0.7
   TCO2
   22
   22
   22
   22
   Glucose
   149
   144
   133
   143
   155
   150
   119
   Other labs: PT / PTT / INR:20.6/51.5/1.9, CK / CKMB /
   Troponin-T:33/2/<0.01, ALT / AST:28/40, Alk Phos / T Bili:238/5.1,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.2 %, Mono:3.9 %, Eos:0.4
   %, Lactic Acid:3.6 mmol/L, Albumin:2.5 g/dL, LDH:250 IU/L, Ca++:8.0
   mg/dL, Mg++:1.6 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR:  ETT, CVC in place.  Unchanged B/L infiltrates and
   effusions.
   Microbiology: BCx:  NGTD
   Sputum Cx:  NGTD
   UCx:  NGTD
   Assessment and Plan
   71 y/o ESLD d/t PSC, EF 35%, recent course notable for fungal
   peritonitis, variceal bleed; now admitted for hypoxemia in setting of
   presumed aspiration.
   Respiratory failure: Clinical scenario most consistent with recurrent
   aspiration and ARDS.  Thus far sputum culture/lack of fever not
   suggesting PNA.  Passing SBT this AM, following commands, infrequent
   suctioning
     -Extubate now
     -Continue pulmonary toilet
    Shock: Likely secondary to SIRS +/- sepsis as well as sedation.  Also
   vasodilated.
     -Now that respiratory status improved, will back of diuresis
     -Target CVP 6-8
    Leukocytosis, bacterial and fungal peritonitis.  WBC down again
   today.
     -f/u pan culture.
     -Low threshold for broadening GNR.
    Varices, h/o GI bleed: S/P recent banding
     -Continue to monitor HCT, PPI.
     -Nadolol, spironolactone on hold for now.
   Cirrhosis: ursidiol, lactulose.  Trend lfts.
    Malnutrition: significant issue, esp given d/c of NGTs.  Some
   increased residuals this AM
     -Tube feeds held overnight.  Will restart when extubated
    Hypernatremia: Na slightly up with diuresis
      -Will monitor with lasix off.
   Confusion: likely some component of hepatic encephalopathy, +/-
   infection, prolonged hospitalization, etc; appears stable over past few
   days.
     -Continue lactulose
   Access: Quad-lumen L IJ
   Rest of plan per Resident Note.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2185-1-22**] 05:07 PM
   18 Gauge - [**2185-1-24**] 04:20 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2185-01-27 08:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2185-1-26**] 08:55 AM
   - extubated
   -- off pressors once propofol stopped
   - Na creeping up, but hadn't got much of the free water via NG tube
   This AM, denies compaints.
   Allergies:
   Penicillins
   Unknown; itchin
   Sulfa (Sulfonamides)
   chills;
   Last dose of Antibiotics:
   Caspofungin - [**2185-1-26**] 11:15 AM
   Meropenem - [**2185-1-27**] 01:02 AM
   Vancomycin - [**2185-1-27**] 02:00 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2185-1-27**] 05:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-1-27**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 98 (81 - 104) bpm
   BP: 108/66(75) {85/49(59) - 114/75(83)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.1 kg (admission): 64.5 kg
   Height: 65 Inch
    CVP: 7 (-9 - 9)mmHg
   Total In:
                                                                  2,621 mL
                                                                    881 mL
   PO:
   TF:
                                                                    298 mL
                                                                    202 mL
   IVF:
                                                                  1,532 mL
                                                                    379 mL
   Blood products:
   Total out:
                                                                  3,315 mL
                                                                    290 mL
   Urine:
                                                                  2,310 mL
                                                                    290 mL
   NG:
                                                                      5 mL
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                   -694 mL
                                                                    591 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 590 (590 - 590) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 0%
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 9.1 L/min
   Physical Examination
   NAD, frail, cachectic, a+O x self, place
   Icteric
   RRR
   Lungs [**Last Name (un) 1109**] laterally and anteriorly
   + ascites, non tender, mild BS
   Trace edema
   + asterixis
   Labs / Radiology
   80 K/uL
   9.5 g/dL
   138 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.5 mEq/L
   22 mg/dL
   116 mEq/L
   151 mEq/L
   28.0 %
   11.5 K/uL
        [image002.jpg]
                             [**2185-1-22**]  08:41 AM
                             [**2185-1-22**]  11:51 AM
                             [**2185-1-22**]  03:43 PM
                             [**2185-1-23**]  04:21 AM
                             [**2185-1-23**]  04:48 PM
                             [**2185-1-24**]  03:26 AM
                             [**2185-1-24**]  06:00 AM
                             [**2185-1-25**]  04:32 AM
                             [**2185-1-26**]  04:20 AM
                             [**2185-1-27**]  03:08 AM
   WBC
   20.5
   21.9
   18.5
   11.7
   11.5
   Hct
   28.1
   26.9
   28.2
   29.0
   28.0
   Plt
   128
   110
   90
   83
   80
   Cr
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   TCO2
   22
   22
   22
   Glucose
   149
   144
   133
   143
   155
   150
   119
   138
   Other labs: PT / PTT / INR:19.8/45.7/1.8, CK / CKMB /
   Troponin-T:33/2/<0.01, ALT / AST:28/40, Alk Phos / T Bili:262/4.8,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.2 %, Mono:3.9 %, Eos:0.4
   %, Lactic Acid:3.6 mmol/L, Albumin:2.5 g/dL, LDH:250 IU/L, Ca++:8.3
   mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Imaging: none today
   1.7 CXR No appreciable interval change.
   Microbiology: [**1-23**] BCx: NGTD
   [**1-23**] UCx: negative
   [**1-23**] sputum: negative
   [**1-23**] BCx: NGTD
   [**1-17**] BCx: NGTD
   Assessment and Plan
   71 y/o man with PSC complicated by cirrhosis with known esophageal
   varices and multiple epidoses of UGIB and banding this admission, also
   with recent ICU stay for acute hypoxemia due to aspiration, who is now
   re-transferred to the ICU for acute hypoxemia in the setting of a
   likely repeat aspiration. Serial CXRs concerning for development of
   ARDS.
   # Hypoxemia:  Was due to ARDS. Aspiration is most likely etiology.
   Other diagnoses such as PE and hepatopulmonary syndrome are less likely
   now given new clinical information.
   -- now extubated, now off sedation
   -- NPO, TFs to avoid aspiration
   -- stop lasix gtt
goal even
   -- repeat ABG today to verify resolution
   -- continue abx coverage: vanco/[**Last Name (un) 430**]/caspofungin but doubt infectious
   etiology
   # Hypotension: Resolved but borderline. propofol likely contributing,
   sepsis less likely given no culture groqwth.
   -- given ESLD, would expect CVP to be lower, will avoid more boluses
   given that it 3rd spaces.
   -- stopped lasix gtt
   -- levophed off
   -- cont abx (vanco/[**Last Name (un) 430**]/caspofungin)
   -- f/u cultures (no new data to date)
   # Persistent leukocytosis.
stablely elevated. Complicated history of
   peritonitis, ? colangitis, and esophagitis. Cdiff has been negative.
   Blood and urine cultures negative.
   -- f/u [**1-23**]
s  blood, urine, and sputum cultures--> NGTD
   -- continue vanco/[**Last Name (un) 430**] to cover for aspiration pna and peritonitis
   -- continue caspofungin for esophagitis and peritonitis with [**First Name5 (NamePattern1) 188**]
   [**Last Name (NamePattern1) 1656**]
   -- monitor fever curve, WBC
   # GI bleeding: EGD performed twice this admission with esophageal bands
   placed (2 on [**1-4**] on [**1-12**]). No recent evidence bleeding.  Hct
   stable
   -- Monitor Hct, Protonix [**Hospital1 **], has CVL, and active T/S
   -- Sucralfate 1 gm PO QID
   -- holding nadolol for hypotension, but restart when off pressor and
   normotensive as no ongoing bleeding evident
   # ESLD/cirrhosis: On liver transplant list but not active given acute
   illness. Complicated by ascites, portal gastropathy, and SBP. No clear
   history of encephalopathy.
   -- ursodiol [**Hospital1 **], lactulose 30 mg daily
   -- hold spironolactone, nadolol in setting of above
   -- stop lasix gtt [**2185-1-26**]
 allow to run even
   -- Dr. [**Last Name (STitle) 2233**] already reported that pt is listed on transplant but not
   active now that acutely ill
   -- stopped reglan given large stool output
   # Hypernatremia
 Na trending up.  Likely [**2-21**] decreased free water
   access, diuresis
   -- increased free H2O flushes again today
   -- 1L D5W this AM
   -- trend Na [**Hospital1 **]
   # Biliary strictures: Pull back cholangiography on [**1-10**] demonstrated
   no obstruction. PTC drain removed by IR [**2185-1-10**]. Bili peaked [**1-13**],
   decreasing now.
   -- Trend LFTs to assess for complications of PTC removal (ie,
   cholangitis)
   # Ulcerative colitis:
   -- Continue outpatient Mesalamine.
   # CAD s/p CABG:
   -- continue statin. Holding ASA and BB in setting of recent  bleeding.
   # Hyperlipidemia
   -- Continue outpatient dose statin.
   # Depression/ADHD:
   -- Continue sertraline.
   # FEN: Had poor PO intake. Calorie count on floor showed <500cal/day.
   Tube feeds via NG tube
   -- NPO, TFs per nutrition recs
   # PPx:
   -- pneumoboots, ppi, lactulose
   # COMM:
   -- with patient and wife, [**Name (NI) 7031**] [**Telephone/Fax (1) 7032**]
   ICU Care
   Nutrition:
   Comments: NPO, TFs
   Glycemic Control:
   Lines:
   Multi Lumen - [**2185-1-22**] 05:07 PM
   18 Gauge - [**2185-1-24**] 04:20 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2185-01-27 11:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Extubated yesterday. Did well overnight.
   Weaned off of pressors overnight
   TF residuals this AM and he was noted to be choking/coughing this AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown; itchin
   Sulfa (Sulfonamides)
   chills;
   Last dose of Antibiotics:
   Meropenem - [**2185-1-27**] 01:02 AM
   Vancomycin - [**2185-1-27**] 02:00 AM
   Caspofungin - [**2185-1-27**] 09:32 AM
   Infusions:
   Other ICU medications:
   Insulin - Regular - [**2185-1-27**] 05:34 AM
   Other medications:
   colace, mesalamine, carafate, sertraline, ursodiol, protonix,
   simvastatin, lactulose, albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-1-27**] 11:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 98 (81 - 104) bpm
   BP: 96/58(67) {88/49(59) - 114/75(83)} mmHg
   RR: 17 (14 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.1 kg (admission): 64.5 kg
   Height: 65 Inch
   CVP: 4 (-9 - 8)mmHg
   Total In:
                                                                  2,620 mL
                                                                  1,958 mL
   PO:
   TF:
                                                                    298 mL
                                                                    446 mL
   IVF:
                                                                  1,532 mL
                                                                  1,212 mL
   Blood products:
   Total out:
                                                                  3,315 mL
                                                                    330 mL
   Urine:
                                                                  2,310 mL
                                                                    330 mL
   NG:
                                                                      5 mL
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                   -695 mL
                                                                  1,628 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 27%
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: No acute distress, Thin, frail
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar L>R)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Oriented (to): self, Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   80 K/uL
   138 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.5 mEq/L
   22 mg/dL
   116 mEq/L
   151 mEq/L
   28.0 %
   11.5 K/uL
        [image002.jpg]
                             [**2185-1-22**]  08:41 AM
                             [**2185-1-22**]  11:51 AM
                             [**2185-1-22**]  03:43 PM
                             [**2185-1-23**]  04:21 AM
                             [**2185-1-23**]  04:48 PM
                             [**2185-1-24**]  03:26 AM
                             [**2185-1-24**]  06:00 AM
                             [**2185-1-25**]  04:32 AM
                             [**2185-1-26**]  04:20 AM
                             [**2185-1-27**]  03:08 AM
   WBC
   20.5
   21.9
   18.5
   11.7
   11.5
   Hct
   28.1
   26.9
   28.2
   29.0
   28.0
   Plt
   128
   110
   90
   83
   80
   Cr
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   TCO2
   22
   22
   22
   Glucose
   149
   144
   133
   143
   155
   150
   119
   138
   Other labs: PT / PTT / INR:19.8/45.7/1.8, CK / CKMB /
   Troponin-T:33/2/<0.01, ALT / AST:28/40, Alk Phos / T Bili:262/4.8,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.2 %, Mono:3.9 %, Eos:0.4
   %, Lactic Acid:3.6 mmol/L, Albumin:2.5 g/dL, LDH:250 IU/L, Ca++:8.3
   mg/dL, Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Microbiology: BCx: NGTD
   UCx:  NGTD
   Sputum Cx: NGTD
   Assessment and Plan
   71 y/o ESLD d/t PSC, EF 35%, recent course notable for fungal
   peritonitis, variceal bleed; now admitted for hypoxemia in setting of
   presumed aspiration.
   Respiratory failure: Clinical scenario most consistent with recurrent
   aspiration and ARDS.  Thus far sputum culture/lack of fever not
   suggesting PNA.  Extubated successfully yesterday.
     -Continue pulmonary toilet
     -Aspiration precautions
    Shock: Likely secondary to SIRS +/- sepsis as well as sedation.  Also
   vasodilated. Now resolved
    Leukocytosis, bacterial and fungal peritonitis.  WBC down again
   today.
     -f/u pan culture.
   Tube feed residuals:  Increases risk of aspiration
     -NGT to suction for now
     -Restart reglan
    Varices, h/o GI bleed: S/P recent banding
     -Continue to monitor HCT, PPI.
     -Nadolol, spironolactone on hold for now.  If pressures remains
   stable, can restart.
    Cirrhosis: ursidiol, lactulose.  Trend lfts.
    Hypernatremia: Na slightly up with diuresis
     -D5W via IV while TF held
    Confusion: likely some component of hepatic encephalopathy, +/-
   infection, prolonged hospitalization, etc; appears stable over past few
   days.
     -Continue lactulose
    Access: Quad-lumen L IJ
    Rest of plan per Resident Note.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2185-1-27**] 04:43 AM 40 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2185-1-22**] 05:07 PM
   18 Gauge - [**2185-1-24**] 04:20 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2185-01-28 07:28:00 Physician Resident Progress Note
Chief Complaint: PSC, ESLD; recurrent aspiration PNA
   24 Hour Events:
   - d/c'ed vanc and [**Last Name (un) 430**] as he had completed this [**Last Name (un) 2736**] (still needs
   caspo for another 10 days)
   - restarted TFs slowly in the PM, no aspirations overnight
   - borderline urine output
   Allergies:
   Penicillins
   Unknown; itchin
   Sulfa (Sulfonamides)
   chills;
   Last dose of Antibiotics:
   Meropenem - [**2185-1-27**] 01:02 AM
   Vancomycin - [**2185-1-27**] 02:53 PM
   Caspofungin - [**2185-1-28**] 07:19 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-1-28**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.5
   HR: 88 (88 - 104) bpm
   BP: 89/57(65) {89/57(65) - 121/105(108)} mmHg
   RR: 13 (12 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.1 kg (admission): 64.5 kg
   Height: 65 Inch
    CVP: 7 (-2 - 11)mmHg
   Total In:
                                                                  3,532 mL
                                                                    697 mL
   PO:
   TF:
                                                                    442 mL
                                                                     73 mL
   IVF:
                                                                  2,640 mL
                                                                    323 mL
   Blood products:
   Total out:
                                                                  1,945 mL
                                                                    210 mL
   Urine:
                                                                    795 mL
                                                                    210 mL
   NG:
                                                                    500 mL
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,587 mL
                                                                    487 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: Thin, cachectic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Crackles : , No(t)
   Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Musculoskeletal: temporal muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   84 K/uL
   9.0 g/dL
   107 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.8 mEq/L
   22 mg/dL
   113 mEq/L
   145 mEq/L
   26.2 %
   10.0 K/uL
        [image002.jpg]
                             [**2185-1-22**]  11:51 AM
                             [**2185-1-22**]  03:43 PM
                             [**2185-1-23**]  04:21 AM
                             [**2185-1-23**]  04:48 PM
                             [**2185-1-24**]  03:26 AM
                             [**2185-1-24**]  06:00 AM
                             [**2185-1-25**]  04:32 AM
                             [**2185-1-26**]  04:20 AM
                             [**2185-1-27**]  03:08 AM
                             [**2185-1-28**]  03:47 AM
   WBC
   20.5
   21.9
   18.5
   11.7
   11.5
   10.0
   Hct
   28.1
   26.9
   28.2
   29.0
   28.0
   26.2
   Plt
   128
   110
   90
   83
   80
   84
   Cr
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   0.6
   TCO2
   22
   22
   Glucose
   149
   144
   133
   143
   155
   150
   119
   138
   107
   ALT / AST:30 (28)/47 (40), Alk Phos / T Bili: 274 (262)/5.0 (4.8)
   Albumin:2.5 g/dL, LDH:228 IU/L
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   RADIOLOGY: no CXR ordered today
   MICROBIOLOGY:
   [**2185-1-23**] BCx, UCx, sputum: NGTD
   Assessment and Plan
   71 y/o man with PSC complicated by cirrhosis with known esophageal
   varices and multiple epidoses of UGIB and banding this admission, also
   with recent ICU stay for acute hypoxemia due to aspiration, who is now
   re-transferred to the ICU for acute hypoxemia in the setting of a
   likely repeat aspiration. Serial CXRs concerning for development of
   ARDS.
   # Hypoxemia:  Was due to ARDS. Aspiration is most likely etiology.
   Other diagnoses such as PE and hepatopulmonary syndrome are less likely
   now given new clinical information.
   -- NPO, TFs to avoid aspiration
   -- stop lasix gtt
goal even
   -- repeat ABG today to verify resolution
   -- continue abx coverage: vanco/[**Last Name (un) 430**]/caspofungin but doubt infectious
   etiology
    # Hypotension: Resolved but borderline. propofol likely contributing,
   sepsis less likely given no culture groqwth.
   -- given ESLD, would expect CVP to be lower, will avoid more boluses
   given that it 3rd spaces.
   -- stopped lasix gtt
   -- levophed off
   -- cont abx (vanco/[**Last Name (un) 430**]/caspofungin)
   -- f/u cultures (no new data to date)
   # Persistent leukocytosis.
stablely elevated. Complicated history of
   peritonitis, ? colangitis, and esophagitis. Cdiff has been negative.
   Blood and urine cultures negative.
   -- f/u [**1-23**]
s  blood, urine, and sputum cultures--> NGTD
   -- continue vanco/[**Last Name (un) 430**] to cover for aspiration pna and peritonitis
   -- continue caspofungin for esophagitis and peritonitis with [**First Name5 (NamePattern1) 188**]
   [**Last Name (NamePattern1) 1656**]
   -- monitor fever curve, WBC
   # GI bleeding: EGD performed twice this admission with esophageal bands
   placed (2 on [**1-4**] on [**1-12**]). No recent evidence bleeding.  Hct
   stable
   -- Monitor Hct, Protonix [**Hospital1 **], has CVL, and active T/S
   -- Sucralfate 1 gm PO QID
   -- holding nadolol for hypotension, but restart when off pressor and
   normotensive as no ongoing bleeding evident
   # ESLD/cirrhosis: On liver transplant list but not active given acute
   illness. Complicated by ascites, portal gastropathy, and SBP. No clear
   history of encephalopathy.
   -- ursodiol [**Hospital1 **], lactulose 30 mg daily
   -- hold spironolactone, nadolol in setting of above
   -- stop lasix gtt [**2185-1-26**]
 allow to run even
   -- Dr. [**Last Name (STitle) 2233**] already reported that pt is listed on transplant but not
   active now that acutely ill
   -- stopped reglan given large stool output
    # Hypernatremia
 Na trending up.  Likely [**2-21**] decreased free water
   access, diuresis
   -- increased free H2O flushes again today
   -- 1L D5W this AM
   -- trend Na [**Hospital1 **]
   # Biliary strictures: Pull back cholangiography on [**1-10**] demonstrated
   no obstruction. PTC drain removed by IR [**2185-1-10**]. Bili peaked [**1-13**],
   decreasing now.
   -- Trend LFTs to assess for complications of PTC removal (ie,
   cholangitis)
   # Ulcerative colitis:
   -- Continue outpatient Mesalamine.
   # CAD s/p CABG:
   -- continue statin. Holding ASA and BB in setting of recent  bleeding.
   # Hyperlipidemia
   -- Continue outpatient dose statin.
   # Depression/ADHD:
   -- Continue sertraline.
   # FEN: Had poor PO intake. Calorie count on floor showed <500cal/day.
   Tube feeds via NG tube
   -- NPO, TFs per nutrition recs
   # PPx:
   -- pneumoboots, ppi, lactulose
   # COMM:  with patient and wife, [**Name (NI) 7031**] [**Telephone/Fax (1) 7032**]
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2185-1-27**] 09:13 PM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2185-1-22**] 05:07 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:  PPI
   VAP:  NA
   Comments: aspiration risk
   Code status: Full code
   Disposition: possible c/o to floor today pending remains stable

2185-01-28 10:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Observed in the ICU yesterday without respiratory problem.
   TF restarted at low rate.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Penicillins
   Unknown; itchin
   Sulfa (Sulfonamides)
   chills;
   Last dose of Antibiotics:
   Meropenem - [**2185-1-27**] 01:02 AM
   Vancomycin - [**2185-1-27**] 02:53 PM
   Caspofungin - [**2185-1-28**] 07:19 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Colace, Asacol, carafate, sertraline, actigall, zocor, lactulose, RISS,
   reglan, pantoprazole
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-1-28**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 98 (88 - 104) bpm
   BP: 104/66(75) {89/57(65) - 121/105(668)} mmHg
   RR: 20 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.2 kg (admission): 64.5 kg
   Height: 65 Inch
   CVP: 7 (-2 - 11)mmHg
   Total In:
                                                                  3,532 mL
                                                                    961 mL
   PO:
   TF:
                                                                    442 mL
                                                                    105 mL
   IVF:
                                                                  2,640 mL
                                                                    355 mL
   Blood products:
   Total out:
                                                                  1,945 mL
                                                                    315 mL
   Urine:
                                                                    795 mL
                                                                    315 mL
   NG:
                                                                    500 mL
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,587 mL
                                                                    646 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Thin, chronically ill appearing
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: Bibasilar)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, No(t) Rash: , Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   84 K/uL
   107 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.8 mEq/L
   22 mg/dL
   113 mEq/L
   145 mEq/L
   26.2 %
   10.0 K/uL
        [image002.jpg]
                             [**2185-1-22**]  11:51 AM
                             [**2185-1-22**]  03:43 PM
                             [**2185-1-23**]  04:21 AM
                             [**2185-1-23**]  04:48 PM
                             [**2185-1-24**]  03:26 AM
                             [**2185-1-24**]  06:00 AM
                             [**2185-1-25**]  04:32 AM
                             [**2185-1-26**]  04:20 AM
                             [**2185-1-27**]  03:08 AM
                             [**2185-1-28**]  03:47 AM
   WBC
   20.5
   21.9
   18.5
   11.7
   11.5
   10.0
   Hct
   28.1
   26.9
   28.2
   29.0
   28.0
   26.2
   Plt
   128
   110
   90
   83
   80
   84
   Cr
   0.6
   0.6
   0.7
   0.7
   0.7
   0.7
   0.6
   TCO2
   22
   22
   Glucose
   149
   144
   133
   143
   155
   150
   119
   138
   107
   Other labs: PT / PTT / INR:19.8/45.7/1.8, CK / CKMB /
   Troponin-T:33/2/<0.01, ALT / AST:30/47, Alk Phos / T Bili:274/5.0,
   Differential-Neuts:92.5 %, Band:0.0 %, Lymph:3.2 %, Mono:3.9 %, Eos:0.4
   %, Lactic Acid:3.6 mmol/L, Albumin:2.5 g/dL, LDH:228 IU/L, Ca++:8.2
   mg/dL, Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   Imaging: No imaging today
   Microbiology: BCx:  NGTD
   UCx: NGTD
   Sputum Cx: NGTD
   Assessment and Plan
   71 y/o ESLD d/t PSC, EF 35%, recent course notable for fungal
   peritonitis, variceal bleed; now admitted for hypoxemia in setting of
   presumed aspiration.
   Respiratory failure: Clinical scenario most consistent with recurrent
   aspiration and ARDS.  Thus far sputum culture/lack of fever not
   suggesting PNA.  Extubated successfully [**1-26**].
     -Continue pulmonary toilet
     -Aspiration precautions
    Leukocytosis, bacterial and fungal peritonitis.  WBC now normalized.
     -Vanco/[**Last Name (un) 430**] stopped yesterday. Caspo to continue per ID
   Tube feed residuals:  Increases risk of aspiration
     -Continue slow increase of TF and monitor for residuals
     -Continue Reglan
    Varices, h/o GI bleed: S/P recent banding
     -Continue to monitor HCT, PPI.
    Cirrhosis: ursidiol, lactulose.  Trend lfts.
     -Restart lasix/sprironolactone to attempt to manage ascites
    Hypernatremia:  Improved with free water
    Confusion: likely some component of hepatic encephalopathy, +/-
   infection, prolonged hospitalization, etc; slightly clearer today.
     -Continue lactulose
    Access: Quad-lumen L IJ
    Rest of plan per Resident Note.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2185-1-27**] 09:13 PM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2185-1-22**] 05:07 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes